US08314094B2
3) Synthesis of 3-[6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]-N-(4-fluorophenyl)propanamide
3-[6-Chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]propanoic acid (50 mg, 0.15 mmol) and 4-fluoroaniline (21 mg, 0.18 mmol) were dissolved in DMF (1 mL), and then, pyridine (31 μL, 0.39 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (35 mg, 0.18 mmol) were sequentially added thereto. After the reaction solution was stirred overnight at room temperature, water was added thereto. Then, the resulting solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by thin-layer silica gel column chromatography (ethyl acetate/hexane=1/1), whereby the objective compound (33.1 mg, 51%) was obtained as a white solid.

reactant | 3-[6-Chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]propanoic acid | 0.15 mmol, 50 mg | ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CCC(=O)O)C1 | C12H9ClF3NO4
reactant | 4-fluoroaniline | 0.18 mmol, 21 mg | FC1=CC=C(N)C=C1 | C6H6FN
reactant | pyridine | 0.39 mmol, 31 μL | N1=CC=CC=C1 | C5H5N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.18 mmol, 35 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]-N-(4-fluorophenyl)propanamide | ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CCC(=O)NC2=CC=C(C=C2)F)C1 | C18H13ClF4N2O3
